US06608062B1
d) 3-Cyclopentyl-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazine
To a solution of 3-cyclopentyl-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazin-2-ol (175 mg, 0.59 mmol) and 3-chloromethyl-2-ethyl-2H-[1,2,4]triazole hydrochloride (130 mg, 0.71 mmol) in anhydrous N,N-dimethylformamide under an atmosphere of nitrogen was added potassium carbonate (329 mg, 2.37 mmol). The reaction mixture was stirred at room temperature for 3 h, then evaporated in vacuo. The residue was purified by flash chromatography (SiO2; 2% MeOH in CH2Cl2), and the product recrystallised from ethyl acetate/isohexane to afford the title compound (45 mg) as a white solid, m.p. 94-96° C.; δH (400 MHz; CDCl3) 1.44 (3H, t, J 7.2), 1.65-2.04 (8H, m), 3.01 (3H, s), 3.70 (1H, m), 4.29 (2H, q, J 7.2), 5.65 (2H, s), 7.52-7.60 (3H, m), 7.91 (1H, s), 8.10 (2H, m); m/z (ES+) 404 (M++H, 100%).

reactant | 3-cyclopentyl-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazin-2-ol | 0.59 mmol, 175 mg | C1(CCCC1)C1=C(N=C2N1C(=NN=C2C2=CC=CC=C2)C)O | C17H18N4O
reactant | 3-chloromethyl-2-ethyl-2H-[1,2,4]triazole hydrochloride | 0.71 mmol, 130 mg | Cl.ClCC=1N(N=CN1)CC
reactant | potassium carbonate | 2.37 mmol, 329 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Cyclopentyl-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazine | 45 mg | C1(CCCC1)C1=C(N=C2N1C(=NN=C2C2=CC=CC=C2)C)OCC=2N(N=CN2)CC | C22H25N7O
